Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
ADMISSION LABS:
___ 07:38AM BLOOD WBC-7.1 RBC-3.95 Hgb-12.0 Hct-36.7 MCV-93 
MCH-30.4 MCHC-32.7 RDW-12.9 RDWSD-44.4 Plt ___
___ 07:38AM BLOOD Glucose-97 UreaN-11 Creat-0.7 Na-142 
K-3.9 Cl-103 HCO3-26 AnGap-13
___ 07:38AM BLOOD Calcium-9.6 Phos-3.6 Mg-2.0

___ imaging:
- Left hand and wrist plain films (___):
IMPRESSION: Diffuse degenerative change and bony 
demineralization
without displaced fracture or dislocation of the wrist or hand.

- CXR (___): No evidence of acute cardiopulmonary process.

- ___ (___): IMPRESSION:
1. Small curvilinear area of hyperdensity within a sulcus along
the medial margin of the right frontal lobe concerning for a
subarachnoid hemorrhage. This may represent benign
mineralization, however, no prior studies are available for
comparison and in the setting of trauma, this could represent a
small bleed. Consider short-term follow-up interval CT scan of
the head to assess for stability.
2. Advanced parenchymal atrophy and nonspecific white matter
disease.

- CTA head and neck (___):
In comparison to the outside head CT ___ at 14:44,
there is a similar interval appearance of a small curvilinear
hyperdensity within the right frontal lobe adjacent to the
anterior horn of the right lateral ventricle, consistent with a
small focus of subarachnoid blood (2:14). No new sites of
hemorrhage are identified. No midline shift. Basal cisterns are
patent. No intraventricular extension.

The ___ is patent. There is no high-grade stenosis,
occlusion delete or aneurysm greater than 3 mm. Specifically, no
vascular abnormalities identified in the right frontal lobe.

There is a focal out-pouching of an extra-foraminal portion of
the right carotid ICA which will be better evaluated on the
reformatted images (3:184).

The left vertebral artery is hypoplastic from its origin. The
proximal aspect of the V3 segment is difficult to definitively
visualize as it leaves the transverse foramen heading towards 
the
dura (3:205).

MRI
1. Gyriform gradient echo susceptibility artifact overlying the 
medial right 
frontal lobe, with corresponding T2 hypointense signal and 
likely cortical 
volume loss, suggesting superficial siderosis and mild 
underlying 
encephalomalacia rather than acute subarachnoid hemorrhage. 
2. No acute infarct.  No intracranial mass. 
3. Additional findings described above. 

EEK: no seizure activity

DISCHARGE LABS:

___ 05:30AM BLOOD WBC-6.6 RBC-3.70* Hgb-11.5 Hct-34.5 
MCV-93 MCH-31.1 MCHC-33.3 RDW-12.7 RDWSD-43.8 Plt ___
___ 10:20AM BLOOD Glucose-100 UreaN-17 Creat-0.7 Na-142 
K-4.1 Cl-102 HCO3-24 AnGap-16
___ 05:30AM BLOOD Calcium-8.8 Phos-3.8 Mg-2.0 UricAcd-5.___ year old female with HTN, dementia, who presents after 
episode of unresponsiveness found to have small SAH on CT scan. 
Repeat scan showed stability. she was evaluated by the neurology 
team and recommend an MRI with and w/o IPH protocol which showed 
siderosis without SAH, suggestive of cerebral amyloid 
angiopathy. She was referred to ___ for further 
follow up. Otherwise, EEG was unremarkable. The etiology of her 
LOC was without a focal source. Tele did not demonstrate any 
arrhythmia. Cardiac work up including EKG and trop were 
unrevealing. 

ACUTE/ACTIVE PROBLEMS:
# Nonaneurysmal SAH:
Patient with stable SAH from her 2 CT scans 12 hours apart. Seen
by neurosurgery with no plans for any surgical intervention. 
Neurology was consulted and recommended MRI to eval for cerebral 
amyloid angiopathy. MRI performed for further evaluation of SAH 
and cause of it, which revealed siderosis suggestive of CAA for 
which she was referred to ___ Neurology. EEG was 
unremarkable. 

# Unresponsive episode
# ?Syncope
Episode of unresponsiveness was less than ___, did not appear to 
be post-ictal as described by witness. EEG was performed to eval 
for seizure, which revealed no epileptic form activity. She was 
monitored on telemetry w/ no arrhythmia. She had no further 
episodes of unresponsiveness.  

# Dementia
Appears to be at baseline per family

# Code Status
Currently full code, but explained to family her elderly age and 
dementia. Family currently in discussion, but thinking about 
making patient DNR in near future

CHRONIC/STABLE PROBLEMS:
# Hypertension:
- Lotrel NF; continued amlodipine 10mg and lisinopril 40mg while 
inpatient

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amlodipine-benazepril ___ mg oral DAILY 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO BID 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*10 Tablet Refills:*0 
2.  amlodipine-benazepril ___ mg oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Subarachnoid Hemorrhage
Unresponsive episode
Hypertension

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you.

You were admitted because you had an episode of 
unresponsiveness. A CT scan of your head revealed a small bleed 
in your brain. You had an MRI which revealed siderosis 
suggestive of cerebral amyloid angiopathy (CAA). No acute 
arachnoid hemorrhage was seen. EEG was pending prior to 
discharge but the preliminary read did not show any seizure 
activity. Given the finding of siderosis and possible CAA she 
should follow up with a neurologist. In addition, you were found 
to have a cellulitis of your left hand for which you were given 
doxycycline with significant improvement.  

 
Followup Instructions:
___